US07259266B2
Step 1. Preparation of ethyl 6-bromo-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To the solution of ethyl 7-fluoro-2-(trifluoromethyl)-2H chromene-3-carboxylate (5 g, 34 mmol) in 100 mL of tetrachloromethane was added dropwise at room temperature a solution of bromine(10.5 mL, 204 mmol) in 20 mL of tetrachloromethane. The resulting solution was stirred for 24 hrs. To the reaction was added 500 mL of ethyl acetate. The resulting organic phase was then washed with aqueous sodium thiosulfite to remove excess bromine, and brine, then dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified on silica gel column with 1:9 EtOAc/hexane. It gave 5.6 g product. A small fraction of the product was further purified on reverse phase HPLC for analytica characterization. It gave a white solid. m.p.=98.5-100.0° C. 1H NMR(CDCl3/300 MHz) 7.67(s, 1H), 7.46(d, J=7.5 Hz, 1H), 6.83(d, J=9 Hz, 1H), 5.74(q, J=6.6 Hz, 1H), 4.36(m, 2H), 1.39(t, J=7.2 Hz, 3H). 19F NMR(CDCl3/300 MHz): −78.82(d, J=6.5 Hz), −98.7(t, J=7.9 Hz). 13C NMR(CDCl3/300 MHz): 163.6, 163.1, 159.7,154.0(d, J=11.5 Hz), 135.1, 133.4, 123.4(q, J=287.3 Hz), 117.3, 105.6(d, J=26.7 Hz), 102.2(d, J=22.3 Hz), 71.1(q, J=33.3 Hz), 61.9, 14.4. LC-MS(ES+): 369.2(M+1, 100). HRMS (EI+): m/z calc. For C13H9BrF4O3: 367.9671(M+), found: 367.9675.

reactant | ethyl 7-fluoro-2-(trifluoromethyl)-2H chromene-3-carboxylate | 34 mmol, 5 g | FC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C13H10F4O3
reactant | bromine | 204 mmol, 10.5 mL | BrBr | Br2
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrachloromethane | 100 mL | ClC(Cl)(Cl)Cl | CCl4
solvent | tetrachloromethane | 20 mL | ClC(Cl)(Cl)Cl | CCl4
product | ethyl 6-bromo-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 5.6 g | BrC=1C=C2C=C(C(OC2=CC1F)C(F)(F)F)C(=O)OCC | C13H9BrF4O3
